Part 2
***************************************************************
*GLOBAL INCLUDES
***************************************************************
*Standard include
.include '/usr/class/ee313/ee313_spice_header.h'

*Specific include
.include '~/ee313/netlist/projectPart2.idsat_tb.ckt'
***************************************************************
*PARAMETERS
***************************************************************

*Defined parameters for stimulus
.param supply = 0.91v
.param tcyc = 1ns *1Ghz clock
.param trf = 50ps *50ps rise/fall time

Vwl wl Gnd dc='Supply'
Vbl  bl  Gnd dc='Supply'

.probe idsat=par('i(m0)')

***************************************************************
*ANALYSIS
***************************************************************

*actually run the simulation
.trans 0.3ps 5ns

.end
